US08703797B2
2-Hydrazinyl-4,5,8-trimethylquinoline:
A solution of 2-chloro-4,5,8-trimethylquinoline (2.2 g, 10.7 mmoles) in NH2NH2 was reacted as outlined in Scheme 1 above to give the desired title compound (830 mg, 38%). Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ ppm 2.62 (s, 3 H) 2.78 (s, 6 H) 4.13 (br. s., 2 H) 5.74 (br. s., 1 H) 6.52 (s, 1 H) 6.95 (d, J=7.03 Hz, 1 H) 7.28 (d, 1 H).

reactant | 2-chloro-4,5,8-trimethylquinoline | 10.7 mmoles, 2.2 g | ClC1=NC2=C(C=CC(=C2C(=C1)C)C)C | C12H12ClN
reactant | NH2NH2 | NN | H4N2
product | 2-Hydrazinyl-4,5,8-trimethylquinoline | 830 mg, 38% | N(N)C1=NC2=C(C=CC(=C2C(=C1)C)C)C | C12H15N3
